US05998413
A mixture of 8.2 g of (R)-(-)2-butanol, 31.5 g of 1-bromo-4-benzenesulfonyl chloride, 1.0 g of N,N-dimethyl-4-pyridinamine, 55.5 ml of pyridine and 293 ml of dichloromethane was stirred for 3 days at room temperature. After the addition of water, stirring was continued for 1 hour. The reaction mixture was washed twice with a diluted hydrochloric acid solution and once with water, dried, filtered and evaporated in vacuo. The residue was purified by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated, yielding 11.5 g (35.6%) of (R)-2-butanol 4-bromobenzenesulfonate (ester) (interm. 3).

reactant | (R)-(-)2-butanol | 8.2 g | C[C@H](CC)O | C4H10O
reactant | 1-bromo-4-benzenesulfonyl chloride | 31.5 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | pyridine | 55.5 ml | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 293 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethyl-4-pyridinamine | 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | (R)-2-butanol 4-bromobenzenesulfonate | 11.5 g, 35.6% | C[C@H](CC)O.BrC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C6H5BrO3S.C4H10O/c7-5-1-3-6(4-2-5)11(8,9)10;1-3-4(2)5/h1-4H,(H,8,9,10);4-5H,3H2,1-2H3/p-1/t;4-/m.1/s1
